US09216985B2
Synthesis of (S)-2-(1-((1H-pyrrolo[2,3-b]pyridin-4-yl)amino)propyl)-5-fluoro-3-phenylquinazolin-4(3H)-one (Compound 5A)
Under nitrogen, to (S)-2-(1-aminopropyl)-5-fluoro-3-phenylquinazolin-4(3H)-one (27 mg, 0.091 mmol, 1.0 equiv) in t-BuOH (0.5 mL) at 23° C. is added 4-chloro-1H-pyrrolo[2,3-b]pyridine (21 mg, 0.14 mmol, 1.5 equiv) and diisopropylethylamine (63 μL, 0.36 mmol, 4.0 equiv). After stirring for 48 hr at 120° C. in a sealed tube, the reaction mixture is concentrated in vacuo and the residue is purified by preparative TLC eluting with CH2Cl2/MeOH to afford the title compound (Compound 5A).

reactant | (S)-2-(1-aminopropyl)-5-fluoro-3-phenylquinazolin-4(3H)-one | 0.091 mmol, 27 mg, 1.0 equiv | N[C@@H](CC)C1=NC2=CC=CC(=C2C(N1C1=CC=CC=C1)=O)F | C17H16FN3O
reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 0.14 mmol, 21 mg, 1.5 equiv | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | diisopropylethylamine | 0.36 mmol, 63 μL, 4.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
product | (S)-2-(1-((1H-pyrrolo[2,3-b]pyridin-4-yl)amino)propyl)-5-fluoro-3-phenylquinazolin-4(3H)-one | N1C=CC=2C1=NC=CC2N[C@@H](CC)C2=NC1=CC=CC(=C1C(N2C2=CC=CC=C2)=O)F | C24H20FN5O
